US07220862B2
2-Benzyloxycarbonylamino-3-[1-(2-trimethylsilanyl-ethanesulfonyl)-1H-indol-5-yl]-acrylic acid methyl ester
1,1,3,3-Tetramethylguanidine (0.68 mL, 5.43 mmol) was added at room temperature to a solution of N-(benzyloxycarbonyl)-α-phophonoglycine trimethyl ester (1.88 g, 5.69 mmol) in tetrahydrofuran (40 mL). The mixture was stirred at room temperature for 15 min and cooled to −78° C., and a solution of 1-(2-trimethylsilanyl-ethanesulfonyl)-1H-indole-5-carbaldehyde (1.6 g, 5.17 mmol) in tetrahydrofuran (15 mL) was added slowly. The resulting reaction mixture was stirred at −78° C. for 2 h and then warmed to room temperature in 3 h. Solvents were removed in vacuo and the residue was subjected to flash chromatography on silica gel using methylene chloride/hexanes (1:1.5) with 1% triethylamine as eluent to afford the title compound as a 92:8 Z/E mixture (determined by integration of CO2CH3, for Z isomer at 3.79 ppm, and E isomer at 3.65 ppm). For the Z isomer: 1H-NMR (CD3CN, 500 MHz) δ 7.96 (s, 1H), 7.91 (d, J=8.5 Hz, 1H), 7.66 (d, J=8.5 Hz, 1H), 7.56 (d, J=3.7 Hz, 1H), 7.51 (s, 1H), 7.43–7.35 (m, 5H), 7.67 (d, J=3.7 Hz, 1H), 5.16 (s, 2H), 3.79 (s, 3H), 3.42–3.38 (m, 2H), 0.87–0.83 (m, 2H), −0.04 (s, 9H). Mass spec. 515.20 (MH)+.

reactant | 1,1,3,3-Tetramethylguanidine | 5.43 mmol, 0.68 mL | CN(C(=N)N(C)C)C | C5H13N3
reactant | N-(benzyloxycarbonyl)-α-phophonoglycine trimethyl ester | 5.69 mmol, 1.88 g | COC(=O)C(NC(=O)OCC1=CC=CC=C1)P(=O)(OC)OC | C13H18NO7P
reactant | 1-(2-trimethylsilanyl-ethanesulfonyl)-1H-indole-5-carbaldehyde | 5.17 mmol, 1.6 g | C[Si](CCS(=O)(=O)N1C=CC2=CC(=CC=C12)C=O)(C)C | C14H19NO3SSi
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-Benzyloxycarbonylamino-3-[1-(2-trimethylsilanyl-ethanesulfonyl)-1H-indol-5-yl]-acrylic acid methyl ester | COC(C(=CC=1C=C2C=CN(C2=CC1)S(=O)(=O)CC[Si](C)(C)C)NC(=O)OCC1=CC=CC=C1)=O | C25H30N2O6SSi
